US06177469B1
1-Dodecylmercapto-3-decyloxy-2-propanol
After dissolving in 30 ml ethanol this oil was admixed with a mercaptide solution which had previously been prepared by reacting 1.94 ml 1-dodecylmercaptan in 20 ml ethanol with sodium methylate. After stirring overnight at room temperature, the solvent was removed by distillation, the residue was taken up in dichloromethane, washed twice with water and the organic phase was evaporated. The residue was purified by chromatography on silica gel 60 using ether/isohexane 1:5 as the eluant. Yield 3.9 g.

reactant | 1-dodecylmercaptan | 1.94 ml | C(CCCCCCCCCCC)S | C12H26S
reactant | sodium methylate | C[O-].[Na+]
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | ethanol | 20 ml | C(C)O | C2H6O
product | 1-Dodecylmercapto-3-decyloxy-2-propanol | C(CCCCCCCCCCC)SCC(COCCCCCCCCCC)O | C25H52O2S
